US04244961
A mixture of 6.2 g 8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one, 50 ml ethanol and 0.5 g, 10% palladium on carbon is hydrogenated at 60 psi and 50° for 18 hours. After filtration and removal of solvent there is obtained 4.2 g 1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 158°-161°.

reactant | 8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 6.2 g | C(C1=CC=CC=C1)N1CCC2(CNC(O2)=O)CC1 | C14H18N2O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-oxa-3,8-diazaspiro[4.5]decan-2-one | 4.2 g | O1C(NCC12CCNCC2)=O | C7H12N2O2
